US07358364B2
Step 3: Preparation of 5-{2-[4′-(2-Benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]dioxane-4,6-dione
A solution of 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran (500 mg, 1.22 mmol) in anhyd DMSO (5 mL) was added to a stirred suspension of 5-[2-(4-bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione (436 mg, 1.22 mmol) and tripotassium phosphate (1.04 g, 4.88 mmol) in anhyd DMSO (5 mL). [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II)-DCM complex (100 mg, 0.12 mmol) was added as a solid, and the resulting suspension was heated to 80° C. for 2 h. The reaction mixture was cooled to room temperature, diluted with diethyl ether (150 mL), washed with water (2×50 mL), sat'd aq NaCl (3×50 mL), dried over anhyd MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (50-60% ethyl acetate in heptane) afforded the title compound as an off-white solid (502 mg).

reactant | 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran | 1.22 mmol, 500 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C27H27BO3
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | 5-[2-(4-bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 1.22 mmol, 436 mg | BrC1=CC=C(C=C1)C(CC1C(OC(OC1=O)(C)C)=O)=O | C14H13BrO5
reactant | tripotassium phosphate | 4.88 mmol, 1.04 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 5-{2-[4′-(2-Benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]dioxane-4,6-dione | 502 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)C(CC3C(OC(OC3=O)(C)C)=O)=O)C=C1)C=CC=C2 | C35H28O6
